US04740517
6-Fluoro-2,3-dihydro-N-(4-methoxyphenyl)-2',5'-dioxo-spiro[4H-1-benzopyran-4,4'-imidazolidine]-2-carboxamide
A mixture of 6-fluoro-3,4-dihydro-N-(4-methoxyphenyl)-4-oxo-2H-1-benzopyran-2-carboxamide (220 mg, 0.7 mmol), potassium cyanide (97.5 mg, 1.5 mmol) and ammonium carbonate (400 mg, 4.2 mmol) in 2.1 ml of 60% aqueous ethanol was heated at 65° to 70° C. in a sealed tube for 40 hours. The reaction mixture was diluted with 5.0 ml of water and then acidified with 6N-hydrochloride acid to pH 1. The formed precipitate was filtered and recrystallized from ethanol to give 67.3 mg (25.0%) of the desired compound.

reactant | 6-fluoro-3,4-dihydro-N-(4-methoxyphenyl)-4-oxo-2H-1-benzopyran-2-carboxamide | 0.7 mmol, 220 mg | FC=1C=CC2=C(C(CC(O2)C(=O)NC2=CC=C(C=C2)OC)=O)C1 | C17H14FNO4
reactant | potassium cyanide | 1.5 mmol, 97.5 mg | [C-]#N.[K+]
reactant | ammonium carbonate | 4.2 mmol, 400 mg | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloride | Cl | ClH
reactant | ethanol | 2.1 ml | C(C)O | C2H6O
solvent | water | 5.0 ml | O | H2O
product | 6-Fluoro-2,3-dihydro-N-(4-methoxyphenyl)-2',5'-dioxo-spiro[4H-1-benzopyran-4,4'-imidazolidine]-2-carboxamide | 67.3 mg, 25.0% | FC=1C=CC2=C(C1)C1(NC(NC1=O)=O)CC(O2)C(=O)NC2=CC=C(C=C2)OC | C19H16FN3O5
